US05221671
1-(Cyano-1-methylethoxycarbonyl)-4-hydroxypiperidine
50 g of 1-cyano-1-methylethylphenyl carbonate and 25 g of 4-hydroxypiperidine were heated at 130° C. After completion of the reaction, the resulting product was purified by silica gel column chromatography (elution solvent:hexane:ethyl acetate=1:1-1:2-0:1), thereby obtaining 50.5 g of the intended compound.

reactant | 1-cyano-1-methylethylphenyl carbonate | 50 g | C(OC1(C(C=CC=C1)C(C)C)C#N)([O-])=O
reactant | 4-hydroxypiperidine | 25 g | OC1CCNCC1 | C5H11NO
product | 1-(Cyano-1-methylethoxycarbonyl)-4-hydroxypiperidine | 50.5 g | C(#N)C(C)(OC(=O)N1CCC(CC1)O)C | C10H16N2O3
